US07750003B2
4-[4-(2-Cyclopentylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline
Bis(triphenylphosphine)palladium(II) chloride (200 mg, 0.28 mmol) was added to 2-chloro-4-(2-cyclopentylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine (1.66 g, 4.28 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.406 g, 6.42 mmol) and sodium carbonate (10 mL, 20.00 mmol) in a mixture of ethanol (5 mL), DMF (10 mL), water (7 mL) and DME (25 mL) at RT. The resulting mixture was degassed then stirred at 95° C. for 18 hours. The reaction mixture was allowed to cool and diluted with ethyl acetate (200 mL) then washed with water (2×150 mL), and brine (150 mL). The organic layer was dried (Na2SO4), filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 10 to 60% ethyl acetate in isohexane, and the residue obtained was triturated with a mixture of diethyl ether and isohexane to give the desired material as a pale pink solid (1.52 g).

reactant | 2-chloro-4-(2-cyclopentylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine | 4.28 mmol, 1.66 g | ClC1=NC(=CC(=N1)C(C)(C)S(=O)(=O)C1CCCC1)N1[C@H](COCC1)C | C17H26ClN3O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 6.42 mmol, 1.406 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | sodium carbonate | 20.00 mmol, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.28 mmol, 200 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DME | 25 mL | COCCOC | C4H10O2
solvent | water | 7 mL | O | H2O
product | 4-[4-(2-Cyclopentylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 1.52 g | C1(CCCC1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C23H32N4O3S
